US08703797B2
N-(2,6-Dichloropyridin-4-yl)-2-(4-methylquinolin-2-yl)hydrazinecarboxamide:
A solution of 2-hydrazinyl-4-methylquinoline (100 mg, 0.58 mmol) and 110 mg (1.0 eq) of 2,6-dichloro-4-isocyanatopyridine was reacted as outlined in Scheme 1 above to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.57 (s, 3 H) 6.80 (s, 1 H) 7.30 (t, J=7.47 Hz, 1 H) 7.50-7.64 (m, 2 H) 7.87 (d, J=8.20 Hz, 1 H) 8.78 (s, 1 H) 8.91 (br. s., 1 H).

reactant | 2-hydrazinyl-4-methylquinoline | 0.58 mmol, 100 mg | N(N)C1=NC2=CC=CC=C2C(=C1)C | C10H11N3
reactant | 2,6-dichloro-4-isocyanatopyridine | 110 mg, 1.0 eq | ClC1=NC(=CC(=C1)N=C=O)Cl | C6H2Cl2N2O
product | N-(2,6-Dichloropyridin-4-yl)-2-(4-methylquinolin-2-yl)hydrazinecarboxamide | ClC1=NC(=CC(=C1)NC(=O)NNC1=NC2=CC=CC=C2C(=C1)C)Cl | C16H13Cl2N5O
